US05550121
To an ice-cooled suspension of sodium hydride (60%, in oil suspension, 300 mg, 7.5 mmol) in N,N-dimethylformamide (15 ml) was added dropwise dimethyl malonate (0.92 ml, 8.05 mmol) under a nitrogen atmosphere, and the mixture was stirred for 3.0 min at the same temperature. To the mixture was added a solution of (2S,4S)-N-allyloxycarbonyl-2-iodomethyl-4-triphenylmethylthiopyrrolidine (2.85 g, 5 mmol) in N,N-dimethylformamide (10 ml), and the mixture was stirred for 30 min under ice-cooling, for 1 h at room temperature, and then for 6 h at 60° C. The reaction mixture was poured into a mixture of water (30 ml) and 1N aqueous potassium hydrogensulfate (30 ml), and extracted with ethyl acetate (1×100 ml, 2×50 ml). The combined organic layer was washed successively with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was removed in vacuo, and the residue was subjected to silica gel column chromatography (hexane-ethyl acetate) to give (2S,4S)-N-allyloxycarbonyl-2-[2,2-bis(methoxycarbonyl)ethyl]-4-triphenylmethylthiopyrrolidine (2.59 g, yield: 90%).

reactant | sodium hydride | 7.5 mmol, 300 mg | [H-].[Na+]
reactant | dimethyl malonate | 8.05 mmol, 0.92 ml | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | (2S,4S)-N-allyloxycarbonyl-2-iodomethyl-4-triphenylmethylthiopyrrolidine | 5 mmol, 2.85 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CI | C28H28INO2S
reactant | potassium hydrogensulfate | 1N, 30 ml | S(=O)(=O)(O)[O-].[K+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | (2S,4S)-N-allyloxycarbonyl-2-[2,2-bis(methoxycarbonyl)ethyl]-4-triphenylmethylthiopyrrolidine | 2.59 g, yield: 90% | C(C=C)OC(=O)N1[C@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C(=O)OC)C(=O)OC | C33H35NO6S
